US07176216B2
N4-Cyclopropylmethyl-N4-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)tetrahydro-2H-4-pyrancarboxamide
A mixture of N4-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)tetrahydro-2H-4-pyrancarboxamide (272 g, 915 mmol), potassium tert-butoxide (144 g, 1.28 mol) and 1,2-dimethoxyethane (1750 mL) was heated and stirred at an external temperature of 40° C. (Bromomethyl)cyclopropane (161 g, 1.19 mol) was then added dropwise to the reaction mixture keeping the internal temperature below 50° C. After heating and stirring for 4 hours, water (1250 mL) and toluene (3750 mL) were added to the reaction mixture. The aqueous layer was removed, and then the organic extract was washed with 10% brine (1250 mL) and water (1250 mL×2 times) in that order, and concentrated under reduced pressure to afford 277 g of the title compound as a brown oil (92.6% yield).

reactant | N4-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)tetrahydro-2H-4-pyrancarboxamide | 915 mmol, 272 g | C(C)C1=NN2C(C=CC=C2)=C1NC(=O)C1CCOCC1 | C15H19N3O2
reactant | potassium tert-butoxide | 1.28 mol, 144 g | CC(C)([O-])C.[K+]
reactant | 1,2-dimethoxyethane | 1750 mL | COCCOC | C4H10O2
reactant | (Bromomethyl)cyclopropane | 1.19 mol, 161 g | BrCC1CC1 | C4H7Br
solvent | toluene | 3750 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1250 mL | O | H2O
product | N4-Cyclopropylmethyl-N4-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)tetrahydro-2H-4-pyrancarboxamide | 277 g, 92.6% yield | C1(CC1)CN(C(=O)C1CCOCC1)C=1C(=NN2C1C=CC=C2)CC | C19H25N3O2
